US05536737
b) N-(Benzylaminocarbonyl)-L-prolyl-L-proline
Palladium-black (0.87 g) was added to a solution of N-(benzylaminocarbonyl)-L-prolyl-L-proline benzyl ester (43.55 g) in THF (400 ml), and the mixture was stirred at room temperature overnight under a hydrogen atmosphere. The reaction mixture was filtered and concentrated to give the title compound (34.5 g).

reactant | N-(benzylaminocarbonyl)-L-prolyl-L-proline benzyl ester | 43.55 g | C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C([C@H]1N(CCC1)C(=O)NCC1=CC=CC=C1)=O)=O | C25H29N3O4
solvent | THF | 400 ml | C1CCOC1 | C4H8O
catalyst | Palladium-black | 0.87 g | [Pd] | Pd
product | N-(Benzylaminocarbonyl)-L-prolyl-L-proline | 34.5 g | C(C1=CC=CC=C1)NC(=O)N1[C@H](C(=O)N2[C@H](C(=O)O)CCC2)CCC1 | C18H23N3O4
